US06936607B2
1-[2-(4-BENZYL-1-PIPERAZINYL)-6-(3,4-DICHLOROANILINO)-4-PYRIMIDINYL]-4-PIPERIDINONE:
A mixture of 2-(4-benzyl-1-piperazinyl)-N-(3,4-dichlorophenyl)-6-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-4-pyrimidinamine (100 mg, 0.18 mmol) and 4M HCl (10 mL) in dioxane (20 mL) was stirred at room temperature for 24 hours. The crude product was purified by preparative thin-layer chromatography [eluent: EtOAc/hexane (2:3) with 1% NH3 in methanol], giving the desired product (10 mg, 11%).

reactant | 2-(4-benzyl-1-piperazinyl)-N-(3,4-dichlorophenyl)-6-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-4-pyrimidinamine | 0.18 mmol, 100 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)NC1=CC(=C(C=C1)Cl)Cl)N1CCC2(OCCO2)CC1 | C28H32Cl2N6O2
reactant | HCl | 4M, 10 mL | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-[2-(4-BENZYL-1-PIPERAZINYL)-6-(3,4-DICHLOROANILINO)-4-PYRIMIDINYL]-4-PIPERIDINONE | 10 mg, 11% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)N1CCC(CC1)=O)NC1=CC(=C(C=C1)Cl)Cl | C26H28Cl2N6O
